US07262185B2
4-nitro-2-(trifluoromethyl)benzenethiol (3.0 g) was dissolved in THF (60 ml), and to this solution was added triethylamine (5.25 ml) and then, 3-(chloromethyl)pyridine hydrochloride (2.65 g), and the mixture was stirred for 1 hour at room temperature. The reaction solution was added to water, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was removed under reduced pressure and the obtained residue was washed with hexane/ethyl acetate, to give 3-[[[4-nitro-2-(trifluoromethyl)phenyl]sulfanyl]methyl]pyridine (2.2 g).

reactant | 4-nitro-2-(trifluoromethyl)benzenethiol | 3.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)S)C(F)(F)F | C7H4F3NO2S
reactant | triethylamine | 5.25 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(chloromethyl)pyridine hydrochloride | 2.65 g | Cl.ClCC=1C=NC=CC1
reactant | water | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-[[[4-nitro-2-(trifluoromethyl)phenyl]sulfanyl]methyl]pyridine | 2.2 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCC=1C=NC=CC1)C(F)(F)F | C13H9F3N2O2S
